US07598384B2
5-Oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile
Prepared in 52% yield from cyclohexane-1,3-dione in analogy to the procedure described for 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile synthesis.

reactant | cyclohexane-1,3-dione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile | CC1(CC(C=2C=C(C(NC2C1)=S)C#N)=O)C | C12H12N2OS
product | 5-Oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile | 52% yield | O=C1C=2C=C(C(NC2CCC1)=S)C#N | C10H8N2OS
